US08420816B2
(R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)azetidine-3-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (10 mg, 0.032 mmol). THF (0.5 mL), azetidine-3-carbonitrile (2.7 mg, 0.032 mmol), 4-methylmorpholine (4.93 mg, 0.049 mmol) and HATU (14.83 mg, 0.039 mmol) were added and the solution was stirred at 25° C. for 1 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a semi-solid (3.7 mg, 30.6%). 1H NMR (400 MHz, CD3OD) δ 0.94 (t, J=6.32 Hz, 3 H) 1.07 (dd, J=18.19, 6.32 Hz, 3 H) 2.44-2.59 (m, 1 H) 3.47-3.79 (m, 1 H) 4.15-4.40 (m, 2 H) 4.57 (dt, J=9.73, 4.99 Hz, 1 H) 4.63-4.78 (m, 1 H) 4.84 (d, J=19.71 Hz, 1 H) 5.06-5.30 (m, 2 H) 7.82 (d, J=11.37 Hz, 1 H) 8.25 (d, J=5.56 Hz, 1 H). [M+H] calc'd for C18H18ClN5O2, 372; found, 372.4.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.032 mmol, 10 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14ClN3O3
reactant | azetidine-3-carbonitrile | 0.032 mmol, 2.7 mg | N1CC(C1)C#N | C4H6N2
reactant | 4-methylmorpholine | 0.049 mmol, 4.93 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.039 mmol, 14.83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)azetidine-3-carbonitrile | 3.7 mg, 30.6% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1CC(C1)C#N)C(C)C)=O)=CN2 | C18H18ClN5O2
